US07265149B2
In analogy to the procedure described for example 3 c], (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (example 1 d]) was reacted with [5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanol in the presence of N,N,N′,N′-tetramethyl azodicarboxamide and tributylphosphine to give {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester as colorless solid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | [5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanol | ClC1=CC=C(C=C1)C1=CC(=NN1C)CO | C11H11ClN2O
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC(=CC=C12)OCC1=NN(C(=C1)C1=CC=C(C=C1)Cl)C)=O | C25H26ClN3O3
